US08981084B2
(4-([1,1′-Biphenyl]-3-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone
This compound was synthesized from 1-([1,1′-biphenyl]-3-yl)piperazine and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (110 mg, yield 40%). 1H NMR (400 MHz, MeOD) δ 8.27-8.25 (m, 1H), 8.22-8.21 (m, 1H), 7.75-7.70 (m, 2H), 7.60-7.58 (m, 2H), 7.43-7.40 (m, 2H), 7.53-7.30 (m, 2H), 7.22-7.21 (m, 1H), 7.14-7.12 (m, 1H), 7.02-6.00 (m, 1H), 3.99 (m, 2H), 3.67 (m, 2H), 3.37 (m, 2H), 3.24 (m, 2H). MS (ESI) m/z: Calculated for C26H21F3N4O2: 478.16. found: 479.1 (M+H)+

reactant | 1-([1,1′-biphenyl]-3-yl)piperazine | C1(=CC(=CC=C1)N1CCNCC1)C1=CC=CC=C1 | C16H18N2
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | (4-([1,1′-Biphenyl]-3-yl)piperazin-1-yl)(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)phenyl)methanone | yield 40% | C1(=CC(=CC=C1)N1CCN(CC1)C(=O)C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F)C1=CC=CC=C1 | C26H21F3N4O2
